### PR TITLE
Adding functions to go from lists to hlists and conversely.

### PR DESCRIPTION
**Pull request by Mbodin**
I didn’t find functions to go from `hlist`s to `list`s and conversely, so I created these. I tried to be consistent with the general style of the library.

### CODE REVIEW

File: theories/Data/HList.v [hunk 1]
```diff
@@ -823,6 +823,58 @@ Proof.
   - constructor; eauto.
 Qed.
 
+
+(** Links Heterogeneous Lists and Lists **)
+
+Fixpoint hlist_gen A (F : A -> Type) (f : forall a, F a) (ls : list A) : hlist F ls :=
```
Comment (gmalecha) [inline theories/Data/HList.v]: `A`, `F`, and `f` can be pulled out of the `fix`.

Comment (gmalecha) [reply theories/Data/HList.v]: It might also be reasonable to add a proof of `In a ls`, but that would change things a little bit. In general, do you think this information won't be necessary?

File: theories/Data/HList.v [hunk 2]
```diff
@@ -823,6 +823,58 @@ Proof.
...
+  - rewrite IHls. reflexivity.
+Qed.
+
+Lemma hlist_get_hlist_gen : forall A F f ls (t : A) m,
+  hlist_get m (hlist_gen F f ls) = f t.
+Proof.
+  induction m; simpl; auto.
+Qed.
+
+Lemma hlist_gen_ext : forall A F f g,
```
Comment (gmalecha) [inline theories/Data/HList.v]: It might be good to state this as a `Proper` morphism, i.e. `Proper (pointwise_relation _ eq ==> eq ==> eq) (hlist_gen F)` that would enable easy rewriting.

File: theories/Data/HList.v [hunk 3]
```diff
@@ -823,6 +823,58 @@ Proof.
...
+  (forall x, f x = g x) ->
+  forall ls : list A, hlist_gen F f ls = hlist_gen F g ls.
+Proof.
+  induction ls; simpl; f_equal; auto.
+Qed.
+
+Lemma equiv_hlist_gen : forall T (F : T -> Type) (f : forall t, F t) f'
```
Comment (gmalecha) [inline theories/Data/HList.v]: Same as above, maybe as a `Proper` morphism?

File: theories/Data/HList.v [hunk 4]
```diff
@@ -823,6 +823,58 @@ Proof.
...
+    (R : forall t, F t -> F t -> Prop),
+  (forall t, R t (f t) (f' t)) ->
+  forall ls,
+    equiv_hlist R (hlist_gen F f ls) (hlist_gen F f' ls).
+Proof.
+  induction ls; simpl; constructor; auto.
+Qed.
+
+Fixpoint hlist_erase A B (ls : list A) (hs : hlist (fun _ => B) ls) :=
```
Comment (gmalecha) [inline theories/Data/HList.v]: Can you add a return type annotation: `: list B`?

File: theories/Data/HList.v (hunk 1 above)
Comment (gmalecha) [reply theories/Data/HList.v]: Probably want arguments like:

```coq
Arguments hlist_gen {A F} f ls
```

File: theories/Data/HList.v (hunk 2 above)
Comment (Mbodin) [reply theories/Data/HList.v]: I’ve never done this kind of proof. I will try.

Comment (Mbodin) [reply theories/Data/HList.v]: Unfortunately, it seems that `Proper (pointwise_relation _ eq ==> eq ==> eq) (hlist_gen F)` produces a type error as-is. I thus tried to find the right lemma. I now have something, but as I’m not sure of how `Proper` works, I’m not sure that I proved the right thing. I proved `forall A F, Proper (forall_relation (fun _ => eq) ==> forall_relation (fun _ => eq)) (@hlist_gen A F)`: is this fine?

File: theories/Data/HList.v [hunk 5]
```diff
@@ -8,6 +8,7 @@ Require Import ExtLib.Data.Member.
 Require Import ExtLib.Data.ListNth.
 Require Import ExtLib.Data.Option.
 Require Import ExtLib.Tactics.
+Require Import Morphisms.
```
Comment (gmalecha) [inline theories/Data/HList.v]: Best to use fully qualified names here, it is slightly more future-proof. `Coq.Classes.Morphisms`

File: theories/Data/HList.v [hunk 6]
```diff
@@ -823,6 +824,58 @@ Proof.
   - constructor; eauto.
 Qed.
 
+
+(** Linking Heterogeneous Lists and Lists **)
+
+Fixpoint hlist_gen {A} {F : A -> Type} (f : forall a, F a) (ls : list A) : hlist F ls :=
```
Comment (gmalecha) [inline theories/Data/HList.v]: I was thinking something like:

```coq
Section hlist_gen.
  Context {A : Type} {F : A -> Type} (f : forall a, F a).
  Fixpoint hlist_gen (ls : list A) : hlist F ls :=
    match ls with
    | nil => Hnil
    | cons x ls' => Hcons (f x) (hlist_gen f ls')
    end.
End hlist_gen.
```

This is a little bit nicer for the guardedness checker because `f` isn't a parameter to the fixpoint so Coq can infer that it doesn't change across calls.

File: theories/Data/HList.v (hunk 1 above)
Comment (gmalecha) [reply theories/Data/HList.v]: I was proposing `f : forall a, In a ls -> F a`.

File: theories/Data/HList.v (hunk 2 above)
Comment (gmalecha) [reply theories/Data/HList.v]: Yes, that's right, because `forall_relation` is the dependent version of `pointwise_relation`. I'm not sure how good setoid rewriting is at rewriting with `forall_relation`, but we will see.

File: theories/Data/HList.v (hunk 1 above)
Comment (gmalecha) [reply theories/Data/HList.v]: If you do this, it complicates the implementation a fair amount, so maybe it is better to keep it simple for now.

Comment (Mbodin) [reply theories/Data/HList.v]: Oh, right. I’ve seen the use of `member` in this file instead of `In`: which do you think is best?

Comment (Mbodin) [reply theories/Data/HList.v]: I pushed a version using `member` to be consistent with the current file.

File: theories/Data/HList.v (hunk 2 above)
Comment (Mbodin) [reply theories/Data/HList.v]: Maybe I should leave the old version in parallel to the `Proper` instance, then.

File: theories/Data/HList.v [hunk 7]
```diff
@@ -823,6 +824,106 @@ Proof.
...
+    (R : forall t, F t -> F t -> Prop),
+  (forall t, R t (f t) (f' t)) ->
+  forall ls,
+    equiv_hlist R (hlist_gen f ls) (hlist_gen f' ls).
+Proof.
+  induction ls; simpl; constructor; auto.
+Qed.
+
+Global Instance Proper_equiv_hlist_gen : forall A (F : A -> Type) ls R,
+  Proper (forall_relation R ==> equiv_hlist R (ls := ls)) (fun f => @hlist_gen A F f ls).
```
Comment (Mbodin) [inline theories/Data/HList.v]: I’m really unhappy on how this instance is phrased. My fear is that as-is it is useful. I feel like I need to only have  `@hlist_gen A F` at the right of the result, but I don’t know how to phrase the `Proper` specification to make it work ☹

File: theories/Data/HList.v [hunk 8]
```diff
@@ -823,6 +824,106 @@ Proof.
...
+  Lemma hlist_get_hlist_gen : forall ls t (m : member t ls),
+    hlist_get m (hlist_gen ls) = f t.
+  Proof.
+    induction m; simpl; auto.
+  Qed.
+
+  (** This function is a generalisation of [hlist_gen] in which the function [f]
+    takes the additional parameter [member a ls]. **)
+  Fixpoint hlist_gen_member ls : (forall a, member a ls -> F a) -> hlist F ls.
+  Proof.
```
Comment (gmalecha) [inline theories/Data/HList.v]: Can you write this without tactics? Even just doing `Show Proof` and then using that term will make it easier to read.

File: theories/Data/HList.v (hunk 7 above)
Comment (gmalecha) [reply theories/Data/HList.v]: I think that you want is something more like:

```coq
Global Instance Proper_equiv_hlist_gen : forall A (F : A -> Type) R,
  Proper (forall_relation R ==> forall_relation (@equiv_hlist _ _ R))
         (@hlist_gen A F).
Proof.
  repeat intro. apply equiv_hlist_gen. auto.
Qed.
```

Comment (gmalecha) [reply theories/Data/HList.v]: That said, I'm not sure how well rewriting does with `forall_relation`.

File: theories/Data/HList.v (hunk 8 above)
Comment (Mbodin) [reply theories/Data/HList.v]: Sure. I feel more confortable writing tactics than `return` clauses in pattern-matching, but I can write the full term here.

File: theories/Data/HList.v (hunk 7 above)
Comment (Mbodin) [reply theories/Data/HList.v]: Thanks!
